US07192657B2
To an ice-cold mixture of 2-bromo-9,9-dioctylfluorene (11.47 g, 24.4 mmol) in 100 mL Et3N was added copper (I) iodide (31.0 mg, 0.163 mmol), palladium (II) acetate (29.7 mg, 0.132 mmol) and triphenylphosphine (90.8 mg, 0.346 mmol). Trimethylsilyl acetylene (3.0 g, 30.5 mmol) was then added and the mixture stirred for 30 minutes followed by a further 30 minutes while warming to room temperature. The reaction mixture was next refluxed for 20 hours and then allowed to cool to room temperature. Thin layer chromatography (hexane as the mobile phase) showed the reaction to be complete and the formation of a reaction product with Rf value less than that of 2-bromo-9,9-dioctylfluorene. Petroleum ether was added to the reaction mixture and the insolubles filtered off. The filtrate was evaporated to dryness and the residual oil taken up in petroleum ether and washed successively with HCl (10%), NaHCO3 solution and water. Drying over magnesium sulfate and evaporation gave oil characterized as (9,9-Dioctyl-9H-fluoren-2-ylethynyl)-trimethylsilane (10.2 g, 86% yield).

reactant | 2-bromo-9,9-dioctylfluorene | 24.4 mmol, 11.47 g | BrC1=CC=2C(C3=CC=CC=C3C2C=C1)(CCCCCCCC)CCCCCCCC | C29H41Br
reactant | Trimethylsilyl acetylene | 30.5 mmol, 3.0 g | C[Si](C)(C)C#C | C5H10Si
reactant | hexane | CCCCCC | C6H14
solvent | Et3N | 100 mL | CCN(CC)CC | C6H15N
catalyst | copper (I) iodide | 0.163 mmol, 31.0 mg | [Cu]I
catalyst | palladium (II) acetate | 0.132 mmol, 29.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.346 mmol, 90.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (9,9-Dioctyl-9H-fluoren-2-ylethynyl)-trimethylsilane | 10.2 g, 86% yield | C(CCCCCCC)C1(C2=CC=CC=C2C=2C=CC(=CC12)C#C[Si](C)(C)C)CCCCCCCC | C34H50Si
